US07642264B2
2-(3-Bromo-phenyl)-6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridine
The title compound was prepared from a mixture of 2-chloro-6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridine (example A.26) (65%) and 2-iodo-6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridine (example A.49) (35%) (5.5 g, 4.62 mmol) and commercially available 3-bromo-benzene-boronic acid (1.02 g, 5.1 mmol) according to the general procedure IVb. Obtained as a white solid (1.43 g, 69%). MS (ISP) 446.0 [(M+H)+] and 448 [(M+2+H)+]

reactant | 2-chloro-6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridine | ClC1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C13H6ClF6N
reactant | 2-iodo-6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridine | 4.62 mmol, 5.5 g | IC1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C13H6F6IN
reactant | 3-bromo-benzene-boronic acid | 5.1 mmol, 1.02 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridine | BrC=1C=C(C=CC1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C19H10BrF6N
